US07186729B2
Step 2: 3-[3-(4-Chloro-phenyl)-1-ethyl-ureido]-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of 3-ethylamino-pyrrolidine-1-carboxylic acid tert-butyl ester (0.33 g, 1.5 mmol) in DMF (5.0 mL) was added drop wise a solution of 4-chlorophenyl isocyanate (0.23 g, 1.51 mmol) in DMF (2.5 mL) at room temperature and the resulting mixture was stirred for 3 h. The reaction mixture was concentrated in vacuo and the crude product was purified on silica using hexane/ethyl acetate (50%) followed by ethyl acetate (100%) to give the desired product as white foamy solid.

reactant | 3-ethylamino-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.5 mmol, 0.33 g | C(C)(C)(C)OC(=O)N1CC(CC1)NCC | C11H22N2O2
reactant | 4-chlorophenyl isocyanate | 1.51 mmol, 0.23 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | 3-[3-(4-Chloro-phenyl)-1-ethyl-ureido]-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)N(C(=O)NC1=CC=C(C=C1)Cl)CC | C18H26ClN3O3
